US09169209B2
C. (4-(2-(Trifluoromethoxy)phenylsulfonyl)phenyl)methanamine
In a 100 mL round-bottomed flask was added 4-(2-(trifluoromethoxy)phenylsulfonyl)benzonitrile (900 mg, 2.75 mmol) in THF (Volume: 25 mL) to give a colorless solution. Borane (1 molar in THF, 6.87 mL, 6.87 mmol) was added and the mixture heated to reflux and monitored by TLC. TLC appeared to show little reaction after 3 hours, so heated overnight. TLC did not change so added 2 additional equivalents of borane and refluxed for an additional two hours. The reaction was then cooled and slowly quenched with methanol. The reaction was diluted with ethyl acetate and poured into a separatory funnel. The organic layer was washed with 2M NaOH, water, and saturated, aqueous sodium chloride. The organic was separated, dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 927.8 mg of crude product. Material purified on Biotage to give 422.0 mg of product (46% yield).

reactant | 4-(2-(trifluoromethoxy)phenylsulfonyl)benzonitrile | 2.75 mmol, 900 mg | FC(OC1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C#N)C=C1)(F)F | C14H8F3NO3S
reactant | Borane | 6.87 mmol, 1 molar, 6.87 mL | B | BH3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (4-(2-(Trifluoromethoxy)phenylsulfonyl)phenyl)methanamine | 422.0 mg, 46% yield | FC(OC1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)CN)(F)F | C14H12F3NO3S
